US07153815B2
4-Trifluoromethylphenyl hydrazine (8.40 g, 47.7 mmol) was suspended in 1 N hydrochloric acid (130 ml) and fully stirred with a mechanical stirrer to obtain a suspension. A aqueous solution (50 ml) of pyruvic acid (4.20 g, 47.7 mmol) was added to the suspension and vigorously stirred to a mixture. 6 hours later, the mixture was extracted with ethyl acetate and washed with a saturated brine. The washed mixture was dried on sodium sulfate and then filtered. The residue obtained by concentrating the resulting filtrate was washed with a mixed solvent of hexane and chloroform (1:1) to obtain 2-(4-trifluoromethylphenyl hydrazono) propionic acid (10.47 g, 42.52 mmol, 89%). mp 190–191° C.; 1H NMR (400 MHz, CDCl3) δ 2.19 (3H, s), 7.23 (2H, d), 7.60 (2H, d), 7.87 (1H, brs).

reactant | 4-Trifluoromethylphenyl hydrazine | 47.7 mmol, 8.40 g | FC(C1=CC=C(C=C1)NN)(F)F | C7H7F3N2
reactant | pyruvic acid | 47.7 mmol, 50 ml, 4.20 g | C(C(=O)C)(=O)O | C3H4O3
solvent | hydrochloric acid | 1 N, 130 ml | Cl | ClH
product | 2-(4-trifluoromethylphenyl hydrazono) propionic acid | 42.52 mmol, 10.47 g, 89% | FC(C1=CC=C(C=C1)NN=C(C(=O)O)C)(F)F | C10H9F3N2O2
